US08026257B2
tert-Butyl 4-(((5-cyclopropyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate.
tert-Butyl 4-(((5-bromo-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (42 mg, 0.07 mmol), cyclopropyl boronic acid (17.2 mg, 0.2 mmol), and tetrakis(triphenylphosphine) palladium(0) (7.7 mg, 0.007 mmol) were combined in dry tetrahydrofran (2 mL) in a microwave tube and sealed. After flushing the mixture with nitrogen, 0.24 mL of a 1 N potassium hydroxide aqueous solution was introduced. The mixture was heated at 100° C. for 1 h via microwave. After cooling to room temperature, the reaction mixture was concentrated and purified by flash chromatography on silica gel to afford 34 mg (86%). 1H-NMR (CDCl3, 300 MHz) δ 7.86 (s, 1H), 7.32 (m, 1H), 7.14-7.23 (m, 5H), 6.94 (m, 1H), 5.32 (s, 2H), 4.65 (s, 2H), 3.61-3.85 (m, 2H), 3.39 (s, 2H), 3.32-3.38 (m, 2H), 2.95-3.02 (m, 2H), 2.06-2.11 (m, 2H), 1.93-1.96 (m, 1H), 1.71-1.80 (m, 2H), 1.39 (s, 9H), 0.92-0.97 (m, 2H), 0.64-0.78 (m, 4H), 0.13 (s, 9H). Mass spec.: 592.24 (MH)+.

reactant | tert-Butyl 4-(((5-bromo-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.07 mmol, 42 mg | BrC1=CC2=CN(N=C2C(=C1)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)COCC[Si](C)(C)C | C31H44BrN3O4Si
reactant | cyclopropyl boronic acid | 0.2 mmol, 17.2 mg | C1(CC1)B(O)O | C3H7BO2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.007 mmol, 7.7 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-Butyl 4-(((5-cyclopropyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | C1(CC1)C1=CC2=CN(N=C2C(=C1)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)COCC[Si](C)(C)C | C34H49N3O4Si
